*----------------------------------------------------------------------
* SPICE Model generated by Murata Manufacturing Co., Ltd.
* Copyright(C) Murata Manufacturing Co., Ltd.
* Description :2012M(0805)/C0G(-55to125[deg])/1.80e-03[uF]/250[V]
* Murata P/N :GCM21A5C2E182JX01
* Property : C = 1.80e-03[uF]
* Data Generated on Jan 30, 2024
*----------------------------------------------------------------------
* Applicable Conditions:
*   Frequency Range = 1000[kHz]-1000[MHz]
*   Temperature = 25 degC
*   DC Bias Voltage = 0V
*   Small Signal Operation
*----------------------------------------------------------------------
.SUBCKT GCM21A5C2E182JX01 Port1 Port2
C01 Port1 N01 1.80e-09
R01 Port1 N01 1.00e+11
L02 N01 N02 4.24e-10
R03 N02 N03 2.13e-02
C04 N03 N04 3.05e-08
R04 N03 N04 2.02e+02
L05 N04 N05 7.18e-11
R05 N04 N05 4.21e-01
L06 N05 N06 7.20e-11
R06 N05 N06 2.21e-02
C07 N06 N07 2.67e-08
L07 N06 N07 5.88e-12
R07 N06 N07 1.22e-01
C08 N07 N08 2.61e-09
L08 N07 N08 2.31e-11
R08 N07 N08 4.07e-01
C09 N08 Port2 4.73e-12
L09 N08 Port2 6.99e-11
R09 N08 Port2 1.68e+01
.ENDS GCM21A5C2E182JX01
